### PR TITLE
[Merged by Bors] - feat(RingTheory/Polynomial/Eisenstein/Generalized): a generalized version of the Eisenstein criterion

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
A generalized form of the Eisenstein criterion

  Let `R` be an integral domain, `P` a prime ideal of `R` and
  let `K` be the field of fractions o f `R ⧸ P`.
  Let `q : R[X]` be a monic polynomial which is irreducible in `K[X]`.
  Let `f : R[X]` be a monic polynomial of strictly positive degree
  whose image in `K[X]` is a power of `q`.
  Assume moreover that `f.modByMonic q` is not zero in `(R ⧸ (P ^ 2))[X]`.
  Then `f` is irreducible.

The Eisenstein criterion is the particular case where `q := X`.

The case of a polynomial `q := X - a` is interesting,
then the mod `P ^ 2` hypothesis can rephrased as saying
that `f.derivative.eval a ∉ P ^ 2`. (TODO)
The case of cyclotomic polynomials of prime index can be proved directly using that, with `a = 1`.

We give a (possibly non convincing) application to the irreducibility
of the polynomial `X ^ 4 - 10 * X + 1` in `ℤ[X]`.
One argues modulo 3, with `q := X ^ 2 + 1`.

## Remark

The result can also be generalized to the case where
the leading coefficients of `f` and `q` do not belong to `P`.
(By localization at `P`, make these coefficients invertible.)
There are two obstructions, though :

* Usually, one will only obtain irreducibility in `F[X]`, where `F` is the field
of fractions of `R`. (If `R` is a UFD, this will be close to what is wanted,
but not in general.)

* The mod `P ^ 2` hypothesis will have to be rephrased to a condition
in the second symbolic power of `P`. When `P` is a maximal ideal,
that symbolic power coincides with `P ^ 2`, but not in general.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 1]
```diff
@@ -0,0 +1,259 @@
...
+  Assume moreover that `f.modByMonic q` is not zero in `(R ⧸ (P ^ 2))[X]`.
+  Then `f` is irreducible.
+
+The Eisenstein criterion is the particular case where `q := X`.
+
+The case of a polynomial `q := X - a` is interesting,
+then the mod `P ^ 2` hypothesis can rephrased as saying
+that `f.derivative.eval a ∉ P ^ 2`. (TODO)
+The case of cyclotomic polynomials of prime index `p` could be proved directly
+using that result, taking a = 1; the derivative is `p`.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:28]:
```suggestion
using that result, taking `a = 1`; the derivative is `p`.
```

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 2]
```diff
@@ -0,0 +1,259 @@
...
+
+We give a (possibly non convincing) application to the irreducibility
+of the polynomial `X ^ 4 - 10 * X + 1` in `ℤ[X]`.
+One argues modulo 3, with `q := X ^ 2 + 1`.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:32]:
```suggestion
One argues modulo `3`, with `q := X ^ 2 + 1`.
```

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 3]
```diff
@@ -0,0 +1,259 @@
...
+that symbolic power coincides with `P ^ 2`, but not in general.
+
+-/
+
+open Polynomial Ideal.Quotient
+
+theorem Ideal.IsPrime.mul_not_mem
+    {R : Type*} [CommRing R] {P : Ideal R} (hP : P.IsPrime) {a b : R}
+    (ha : a ∉ P) (hb : b ∉ P) : a * b ∉ P := fun h ↦
+  hb (Or.resolve_left (hP.mem_or_mem h) ha)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:56]:
```suggestion
  hb ((hP.mem_or_mem h).resolve_left ha)
```
This should go immediately after `mem_or_mem`.

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 4]
```diff
@@ -0,0 +1,259 @@
...
+
+namespace Polynomial
+
+variable {R : Type*} [CommRing R] -- [IsDomain R]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:60]:
```suggestion
variable {R : Type*} [CommRing R]
```

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 5]
```diff
@@ -0,0 +1,259 @@
...
+    {f : K[X]} {n : ℕ} (hn : f ∣ q ^ n) :
+    ∃ m, f = C f.leadingCoeff * q ^ m := by
+  obtain ⟨m, hm, hf⟩ := (dvd_prime_pow hq.prime _).mp hn
+  use m
+  obtain ⟨u, hu⟩ := hf
+  rw [mul_comm, eq_comm, ← Units.inv_mul_eq_iff_eq_mul] at hu
+  rw [← hu, leadingCoeff_mul]
+  congr
+  have : q.leadingCoeff = 1 := hq'
+  simp [leadingCoeff_pow, map_mul, map_pow, this]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:78]:
```suggestion
  simp only [leadingCoeff_pow, hq', Monic.leadingCoeff, one_pow, mul_one]
```

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 6]
```diff
@@ -0,0 +1,259 @@
...
+
+/-- A generalized Eisenstein criterion -/
+theorem generalizedEisenstein [IsDomain R] (hP : P.IsPrime)
+    (hq_irr : Irreducible (q.map (algebraMap R K))) (hq_monic : q.Monic)
+    {f : R[X]} {p : ℕ}
+    (hfd0 : 0 < natDegree f) (hf_monic : f.Monic)
+    (hfmodP : f.map (algebraMap R K) = q.map (algebraMap R K) ^ p)
+    (hfmodP2 : (f.modByMonic q).map (mk (P ^ 2)) ≠ 0) :
+    Irreducible f :=
+  { not_unit := mt degree_eq_zero_of_isUnit fun h => by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:109]:
```suggestion
    (hfmodP2 : (f.modByMonic q).map (mk (P ^ 2)) ≠ 0) : Irreducible f where
  not_unit := mt degree_eq_zero_of_isUnit fun h => by
```
I think the current standard is to use `where`.

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 7]
```diff
@@ -0,0 +1,259 @@
...
+      simp_all only [lt_irrefl, natDegree_pos_iff_degree_pos]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:110]:
```suggestion
      simp_all [lt_irrefl, natDegree_pos_iff_degree_pos]
```

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 8]
```diff
@@ -0,0 +1,259 @@
...
+    isUnit_or_isUnit' g h h_eq := by
+      classical
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:112]:
```suggestion
```

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 9]
```diff
@@ -0,0 +1,259 @@
...
+        rw [h_eq, hg, hh]
+        simp only [add_mul, mul_add, map_add, ← modByMonicHom_apply]
+        simp only [← add_assoc, modByMonicHom_apply]
+        convert zero_add _
+        convert zero_add _
+        · convert zero_add _
+          · rw [modByMonic_eq_zero_iff_dvd hq_monic]
+            apply Dvd.dvd.mul_left
+            apply Dvd.dvd.mul_left
+            exact dvd_pow_self q hn
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:159]:
```suggestion
            exact ((dvd_pow_self q hn).mul_left _).mul_left _
```

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 10]
```diff
@@ -0,0 +1,259 @@
...
+          · symm
+            rw [modByMonic_eq_zero_iff_dvd hq_monic]
+            simp only [← mul_assoc]
+            apply Dvd.dvd.mul_left
+            exact dvd_pow_self q hn
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:164]:
```suggestion
            exact (dvd_pow_self q hn).mul_left _
```

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 11]
```diff
@@ -0,0 +1,259 @@
...
+        · symm
+          rw [modByMonic_eq_zero_iff_dvd hq_monic]
+          apply Dvd.dvd.mul_right; apply Dvd.dvd.mul_left
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:167]: You can do the same here.

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 12]
```diff
@@ -0,0 +1,259 @@
...
+          exact dvd_pow_self q hm
+      exfalso
+      apply hfmodP2
+      simp only [ext_iff, ← coeff_map, eq_zero_iff_mem]
+      rw [← ext_iff]
+      rw [this, map_modByMonic _ hq_monic]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:173]:
```suggestion
      rw [← ext_iff, this, map_modByMonic _ hq_monic]
```

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 13]
```diff
@@ -0,0 +1,259 @@
...
+      rw [← ne_eq, RingEquiv.map_ne_zero_iff (Int.quotientSpanNatEquivZMod 3).symm]
+      apply mod3
+    · rw [hq_deg]
+    · rw [hq_deg]; norm_num
+  set f : ℤ[X] := X ^ 4 - 10 * X ^ 2 + 1 with hf_eq
+  have hdeg_f : f.natDegree = 4 := by
+    simp [hf_eq]
+    conv_rhs => rw [← natDegree_X_pow (R := ℤ) 4]
+    apply natDegree_eq_of_degree_eq
+    rw [sub_add] --  degree_X_pow (R := ℤ)]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:217]:
```suggestion
    rw [sub_add]
```

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 14]
```diff
@@ -0,0 +1,259 @@
...
+      rw [pow_two, ← sub_mul]
+      apply dvd_mul_left
+    · symm
+      simp only [modByMonicHom_apply, Polynomial.modByMonic_eq_self_iff hq_monic, f, P]
+      apply Polynomial.degree_lt_degree
+      suffices q.natDegree = 2 by
+        simp only [this, natDegree_ofNat, f, P, K, q]
+        norm_num
+      rw [hq_eq]
+      simp only [← C_1, Polynomial.natDegree_X_pow_add_C]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:257]: You can use `compute_degree!` here (it needs `import Mathlib.Tactic.ComputeDegree`).

**Review by riccardobrasca — COMMENTED** [review]
You have a bunch of `Polynomial.foo` that can be just `foo`.

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 15]
```diff
@@ -0,0 +1,259 @@
...
+
+example : Irreducible (X ^ 4 - 10 * X ^ 2 + 1 : ℤ[X]) := by
+  set P : Ideal ℤ := Ideal.span {3}
+  have hP' : P.IsMaximal := by
+    apply PrincipalIdealRing.isMaximal_of_irreducible
+    refine Prime.irreducible Int.prime_three
+  have hP : P.IsPrime := hP'.isPrime
+  letI : Field (ℤ ⧸ P) := Ideal.Quotient.field P
+  set q : ℤ [X] := X ^ 2 + 1 with hq_eq
+  let K := ℤ ⧸ P
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:192]: I suppose so. In fact, the theorem doesn't really needs `P`, it just needs `algebraMap R K` and its kernel.

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean (hunk 14 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:230]: Cool!

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 16]
```diff
@@ -0,0 +1,232 @@
...
+
+-/
+
+open Polynomial Ideal.Quotient
+
+namespace Polynomial
+
+variable {R : Type*} [CommRing R] {K : Type*} [Field K] [Algebra R K]
+
+theorem exists_C_leadingCoeff_mul_pow_of_dvd_pow
```
Comment (faenuccio) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:59]: You could weaken the assumptions just requiring that `K` be a domain and `hq` be prime, no?

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 17]
```diff
@@ -0,0 +1,232 @@
...
+    (hq_irr : Irreducible (q.map (algebraMap R K))) (hq_monic : q.Monic)
+    (map_dvd_pow_q : f.map (algebraMap R K) ∣ q.map (algebraMap R K) ^ n)
+    (hf_lC : algebraMap R K f.leadingCoeff ≠ 0) :
+    ∃ m r, f = C f.leadingCoeff * q ^ m + r ∧ map (algebraMap R K) r = 0 := by
+  obtain ⟨m, hm⟩ := exists_C_leadingCoeff_mul_pow_of_dvd_pow hq_irr
+     (hq_monic.map (algebraMap R K)) map_dvd_pow_q
+  use m, f - C f.leadingCoeff * q ^ m, by ring
+  rw [Polynomial.map_sub, sub_eq_zero]
+  rw [hm]
+  simp only [Polynomial.map_mul, map_C, Polynomial.map_pow]
```
Comment (faenuccio) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:83]:
```suggestion
  rw [Polynomial.map_sub, sub_eq_zero, hm, Polynomial.map_mul, map_C, Polynomial.map_pow]
```

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 18]
```diff
@@ -0,0 +1,232 @@
...
+  isUnit_or_isUnit' g h h_eq := by
+    set P : Ideal R := RingHom.ker (algebraMap R K)
+    have hP : P.IsPrime := RingHom.ker_isPrime (algebraMap R K)
+    have hgP' : IsUnit g.leadingCoeff := by
+      apply isUnit_of_mul_isUnit_left (y  := h.leadingCoeff)
+      simp [← leadingCoeff_mul, ← h_eq, hf_monic]
+    have hgP : g.leadingCoeff ∉ P :=
+      fun hgP ↦ hP.ne_top (Ideal.eq_top_of_isUnit_mem P hgP hgP')
+    have hhP' : IsUnit h.leadingCoeff := by
+      apply isUnit_of_mul_isUnit_right (x  := g.leadingCoeff)
```
Comment (faenuccio) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:113]:
```suggestion
      apply isUnit_of_mul_isUnit_right (x := g.leadingCoeff)
``

**Review by faenuccio — COMMENTED** [review]
Very nice :smile:

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 19]
```diff
@@ -0,0 +1,232 @@
...
+      left
+      suffices g.natDegree = 0 by
+        obtain ⟨a, rfl⟩ := Polynomial.natDegree_eq_zero.mp this
+        apply IsUnit.map
+        rwa [leadingCoeff_C] at hgP'
+      by_contra hg'
+      apply hgP
+      rw [hg, leadingCoeff, coeff_add, ← hg, coeff_C, if_neg hg', zero_add,
+        RingHom.mem_ker, ← coeff_map, hr, coeff_zero]
+    by_cases hn : n = 0
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:132]: I can make this part a `have` and apply it twice.

[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:132]: Good idea.

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 20]
```diff
@@ -0,0 +1,232 @@
...
+  Then `f` is irreducible. -/
+theorem generalizedEisenstein [IsDomain R] {q f : R[X]} {p : ℕ}
+    (hq_irr : Irreducible (q.map (algebraMap R K))) (hq_monic : q.Monic)
+    (hfd0 : 0 < natDegree f) (hf_monic : f.Monic)
+    (hfmodP : f.map (algebraMap R K) = q.map (algebraMap R K) ^ p)
+    (hfmodP2 : (f.modByMonic q).map (mk ((RingHom.ker (algebraMap R K)) ^ 2)) ≠ 0) :
+    Irreducible f where
+  not_unit := mt degree_eq_zero_of_isUnit fun h => by
+    simp_all [lt_irrefl, natDegree_pos_iff_degree_pos]
+  isUnit_or_isUnit' g h h_eq := by
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:119]: Yes!

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean (hunk 16 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean]: Indeed, I have even done so in the main theorem.

**Comment by AntoineChambert-Loir** [comment]
`shake` is very strange here, it asks me to remove almost all `import`s, but nothing works anymore if I delete any of them.

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 21]
```diff
@@ -0,0 +1,219 @@
...
+example : Irreducible (X ^ 4 - 10 * X ^ 2 + 1 : ℤ[X]) := by
+  -- We will apply the generalized Eisenstein criterion with `q = X ^ 2 + 1` and `K = ZMod 3`.
+  letI : Fact (Nat.Prime 3) := ⟨Nat.prime_three⟩
+  set q : ℤ [X] := X ^ 2 + 1 with hq_eq
+  let K := ZMod 3
+  have h3 : ker (algebraMap ℤ K) = span {3} := by
+    ext a
+    rw [algebraMap_int_eq, ZMod.ker_intCastRingHom, Nat.cast_ofNat]
+  have hq_monic : q.Monic := leadingCoeff_X_pow_add_one (by norm_num)
+  have hq_deg : q.natDegree = 2 := by simp only [q]; compute_degree!
```
Comment (adomani) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:173]:
```suggestion
  have hq_monic : q.Monic := by unfold q; monicity!
```

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 22]
```diff
@@ -0,0 +1,219 @@
...
+        Polynomial.map_one, mem_roots', ne_eq, IsRoot.def, eval_add, eval_pow, eval_X, eval_one,
+        not_and, q, K]
+      intro _
+      revert a
+      decide
+    · rw [hq_deg']
+    · rw [hq_deg']; norm_num
+  set f : ℤ[X] := X ^ 4 - 10 * X ^ 2 + 1 with hf_eq
+  have hdeg_f : f.natDegree = 4 := by simp only [hf_eq, K, q]; compute_degree!
+  have hlC_f : f.Monic := by simp only [Monic, leadingCoeff, hdeg_f, f]; compute_degree!
```
Comment (adomani) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:190]:
```suggestion
  have hdeg_f : f.natDegree = 4 := by unfold f; compute_degree!
  have hlC_f : f.Monic := by unfold f; monicity!
```

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 23]
```diff
@@ -0,0 +1,219 @@
...
+    rw [hfq]
+    rw [← modByMonicHom_apply, LinearMap.map_add]
+    convert zero_add _
+    · rw [← LinearMap.mem_ker, mem_ker_modByMonic hq_monic]
+      rw [pow_two, ← sub_mul]
+      apply dvd_mul_left
+    · symm
+      simp only [modByMonicHom_apply, Polynomial.modByMonic_eq_self_iff hq_monic, f]
+      apply Polynomial.degree_lt_degree
+      convert Nat.two_pos
```
Comment (adomani) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:216]:
```suggestion
      rw [show q.degree = 2 by unfold q; compute_degree!]
      refine lt_of_eq_of_lt ?_ zero_lt_two
```
In case you want to avoid the `convert`.

**Review by adomani — COMMENTED** [review]
It seems that most of the difficulty in the explicit example is due to having `let` declarations for the polynomials that `compute_degree` does not unfold.

Maybe there could be a flag for using `unfold`s profusely in `compute_degree`?

**Comment by AntoineChambert-Loir** [comment]
Maybe tactics could be provided some stuff that they are allowed to unfold.
Or, in a different way, `compute_degree! [q]` would compute the degree of `q` and rewrite it.

File: scripts/noshake.json [hunk 24]
```diff
@@ -331,6 +331,12 @@
   ["Mathlib.RingTheory.PowerSeries.PiTopology"],
   "Mathlib.RingTheory.PowerSeries.Basic":
   ["Mathlib.Algebra.CharP.Defs", "Mathlib.Tactic.MoveAdd"],
+  "Mathlib.RingTheory.Polynomial.Eisenstein.Generalized":
+  ["Mathlib.Algebra.Field.ZMod",
+   "Mathlib.Algebra.Polynomial.FieldDivision",
+   "Mathlib.Algebra.Polynomial.SpecificDegree",
+   "Mathlib.Data.ZMod.QuotientRing",
+   "Mathlib.Tactic.ComputeDegree"],
```
Comment (AntoineChambert-Loir) [inline scripts/noshake.json:339]:
```suggestion
```

**Comment by adomani** [comment]
Both suggestions
* `compute_degree [q]` unfolds `q`;
* compute leading coefficients;

are certainly possible.  The first is probably much closer than the second one, although the second one is not that hard either.

I simply stopped developing `compute_degree` and friends since it was a lot of work and, honestly, they are tactics that are not used that much.

Should they start becoming more widespread, I am happy to come back to developing them, though.

File: Archive/Examples/Eisenstein.lean [hunk 25]
```diff
@@ -0,0 +1,62 @@
...
+import Mathlib.Algebra.Field.ZMod
+import Mathlib.RingTheory.Polynomial.Eisenstein.Generalized
+import Mathlib.Algebra.Polynomial.SpecificDegree
+import Mathlib.Tactic.ComputeDegree
+
+/-! # Example of an application of the generalized Eisenstein criterion
+
+We show here how `Polynomial.generalizedEisenstein` can be applied
+to establish the irreducibility of the explicit polynomial of degree 4
+  `X ^ 4 - 10 * X + 1 : ℤ[X]`.
```
Comment (jcommelin) [inline Archive/Examples/Eisenstein.lean:16]:
```suggestion
  `X ^ 4 - 10 * X ^ 2 + 1 : ℤ[X]`.
```

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 26]
```diff
@@ -0,0 +1,169 @@
...
+    · symm
+      rw [modByMonic_eq_zero_iff_dvd hq_monic]
+      exact ((dvd_pow_self q hm).mul_left _).mul_right _
+
+-- move
+theorem CharP.ker_intAlgebraMap_eq_span
+    {R : Type*} [Ring R] (p : ℕ) [CharP R p] :
+    RingHom.ker (algebraMap ℤ R) = Ideal.span {(p : ℤ)} := by
+  ext a
+  simp [CharP.intCast_eq_zero_iff R p, Ideal.mem_span_singleton]
```
Comment (jcommelin) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:167]: Does `#find_home! CharP.ker_intAlgebraMap_eq_span` give any sensible suggestions?

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:167]: no, nothing.

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:167]: but I searched for a lemma (using loogle) that has `CharP` and `Ideal.span`,  and I was led to `Mathlib/Algebra/CharP/Quotient.lean` where the lemma fits.

**Comment by AntoineChambert-Loir** [comment]
It should work for primitive, possibly non monic, polynomials.

**Comment by AntoineChambert-Loir** [comment]
(I failed to generalizing to `IsDomain R`)

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 27]
```diff
@@ -0,0 +1,176 @@
...
+    · convert zero_add _
+      · rw [modByMonic_eq_zero_iff_dvd hq_monic]
+        exact ((dvd_pow_self q hn).mul_left _).mul_left _
+      · symm
+        rw [modByMonic_eq_zero_iff_dvd hq_monic]
+        simp only [← mul_assoc]
+        exact (dvd_pow_self q hn).mul_left _
+    · symm
+      rw [modByMonic_eq_zero_iff_dvd hq_monic]
+      exact ((dvd_pow_self q hm).mul_left _).mul_right _
```
Comment (jcommelin) [inline Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:174]:
```suggestion
    iterate 3 rw [(modByMonic_eq_zero_iff_dvd hq_monic).mpr]
    · simp
    · exact ((dvd_pow_self q hm).mul_left _).mul_right _
    · simp only [← mul_assoc]
      exact (dvd_pow_self q hn).mul_left _
    · exact ((dvd_pow_self q hn).mul_left _).mul_left _
```

**Review by jcommelin — COMMENTED** [review]
Thanks!

bors d+

**Review by jcommelin — COMMENTED** [review]
Two more minigolfs

File: Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean [hunk 28]
```diff
@@ -0,0 +1,176 @@
...
+    -- If `n = 0`, `generalizedEisenstein_aux` shows that `h` is a unit.
+    · right; exact hn0 hn
+    -- Otherwise, we will get a contradiction by showing that `f %ₘ q` is zero mod `P ^ 2`.
+    exfalso
+    apply hfmodP2
+    suffices f %ₘ q = (r * s) %ₘ q by
+      -- Since the coefficients of `r` and `s` are in `P`, those of `r * s` are in `P ^ 2`
+      simp only [ext_iff, ← coeff_map, eq_zero_iff_mem]
+      rw [← ext_iff, this, map_modByMonic _ hq_monic]
+      convert zero_modByMonic _
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:150]: I had wondered writing a general lemma for two ideals. What do you think?

[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/RingTheory/Polynomial/Eisenstein/Generalized.lean:150]: What statement do you have in mind exactly?

**Comment by AntoineChambert-Loir** [comment]
And in fact, that should probably be `Mathlib.RingTheory.Polynomial.Eisenstein.Criterion`.

**Comment by riccardobrasca** [comment]
Does this change the import tree a lot?

**Comment by AntoineChambert-Loir** [comment]
probably not, because the file about the criterion is only imported by `Eisenstein.Basic` and `AbelRuffini`.

**Comment by AntoineChambert-Loir** [comment]
Maybe I can try that in a second PR.

**Comment by riccardobrasca** [comment]
Yes, it's probably a good idea to merge this and move stuff later.

**Comment by jcommelin** [comment]
> probably not, because the file about the criterion is only imported by `Eisenstein.Basic` and `AbelRuffini`.

But we should also consider how many imports the "simple" criterion needs? Does the general version need more imports? Anyway, we can discuss that on the follow up PR.
